US04311705
4-ethoxycarbonyl-2-methyloctanoic acid benzyl ester (10 g) is dissolved in ethanol (100 ml), 10% palladium on charcoal (2 g) is added, and the mixture is hydrogenated until complete removal of the benzyl ester is achieved to yield 4-ethoxycarbonyl-2-methyloctanoic acid.

reactant | 4-ethoxycarbonyl-2-methyloctanoic acid benzyl ester | 10 g | C(C1=CC=CC=C1)OC(C(CC(CCCC)C(=O)OCC)C)=O | C19H28O4
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 2 g | [Pd] | Pd
product | 4-ethoxycarbonyl-2-methyloctanoic acid | C(C)OC(=O)C(CC(C(=O)O)C)CCCC | C12H22O4
